US06872834B2
Step C 2-(4-(3-(4-Methylpiperazino)propoxy)phenyl)indole
The mixture of (2-(4-(3-chloropropoxy)phenyl)indole (1 mmol, 285 mg) and 4-methylpiperazine (2 mL) was heated at 80° C. for 5 h. After concentration, the residue was purified by column chromatography (MeOH/CH2Cl2) afforded the title compound (285 mg): 1H NMR (CDCl3, 400 MHz) δ 8.26 (s, 1H), 7.53 (m, 3H), 7.32 (bd, 1H, J=8.1 Hz), 7.1 (td, 1H, J=1.1, 7.0 Hz), 7.05 (td, 1H, J=1.1, 7.0 Hz), 6.90 (m, 2H), 6.64 (m, 1H), 3.99 (t, 2H, J=6.3 Hz), 2.48 (m, 10H, J=6.4 Hz), 2.25 (s, 3H), 1.93 (quintet, 2H, J=6.3 Hz); EIMS m/z 350 (M+H+).

reactant | 2-(4-(3-chloropropoxy)phenyl)indole | 1 mmol, 285 mg | ClCCCOC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C17H16ClNO
reactant | 4-methylpiperazine | 2 mL | CN1CCNCC1 | C5H12N2
product | 2-(4-(3-(4-Methylpiperazino)propoxy)phenyl)indole | 285 mg | CN1CCN(CC1)CCCOC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C22H27N3O
